US07572811B2
To a mixture of 4-cyclohexyl-3-methyl-phenol (65 mg, 0.34 mmol, 1 eq.), 4-(4-Hydroxymethyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (100 mg, 0.34 mmol, 1 eq.) and PPh3 (134 mg, 0.51 mmol, 1.5 eq.) in dry DCM (3 mL) is added 1,1′-(azodicarbonyl)-dipipperidine (129 mg, 0.51 mmol, 1.5 eq.) in DCM (1 mL). The mixture is stirred at room temperature for 12 hours. After concentration, the residue is purified by silica gel chromatography (10% EtOAc in hexanes) to give 4-[4-(4-cyclohexyl-3-methyl-phenoxymethyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-cyclohexyl-3-methyl-phenol | 0.34 mmol, 65 mg, 1 eq. | C1(CCCCC1)C1=C(C=C(C=C1)O)C | C13H18O
reactant | 4-(4-Hydroxymethyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.34 mmol, 100 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)CO | C17H25NO3
reactant | PPh3 | 0.51 mmol, 134 mg, 1.5 eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(4-cyclohexyl-3-methyl-phenoxymethyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)COC1=CC(=C(C=C1)C1CCCCC1)C | C30H41NO3
